US08455563B2
Preparation of 2-iodo-6-hydroxy-naphthalene 1.3
BBr3 (102 g, 407 mmol) is added dropwise over 30 min to a slightly cloudy solution/suspension of 2-iodo-6-methoxy-naphthalene (45.4 g, 160 mmol) in dichloromethane (dried over 3 {acute over (Å)} molecular sieves) (1 L) at −8° C. The mixture is warmed to 20° C. and stirred at this temp for 1.5 h. Water (400 mL) is carefully added (slow dropwise addition at the start) and the biphasic mixture vigorously stirred for 20 min. The layers are separated and the aqueous layer extracted with dichloromethane (250 mL) with additional water (400 mL) being added. The combined organic fractions are washed with water (500 mL), dried (Na2SO4), filtered and solvent removed in vacuo to give a colourless solid with silvery purple patches (44.7 g). This is recrystallised from IMS/water (initially dissolved in 100 mL IMS) washing with water and dried in a vacuum oven to give an off-white solid (40.3 g, 94%).

reactant | BBr3 | 407 mmol, 102 g | B(Br)(Br)Br | BBr3
reactant | 2-iodo-6-methoxy-naphthalene | 160 mmol, 45.4 g | IC1=CC2=CC=C(C=C2C=C1)OC | C11H9IO
reactant | Water | 400 mL | O | H2O
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-iodo-6-hydroxy-naphthalene | 40.3 g, 94% | IC1=CC2=CC=C(C=C2C=C1)O | C10H7IO
